US04076709
43.5 G. (0.18 mol) of the obtained 3-chlorosulfonylthiophene-2-carboxylic acid methyl ester are dissolved in 450 ml. of absolute chloroform and dry methylamine is led through the solution at 10° C. until a moistened pH paper shows an alkaline reaction with the solution. The mixture is then allowed to react at room temperature for a further 2 hours, the solution always remaining alkaline. The solution is then shaken out with 500 ml. of water and 500 ml. of a 5% sodium bicarbonate solution [the aqueous phases are back-extracted in each case once with chloroform]. The combined organic phases are dried over sodium sulfate and then evaporated. The crystalline residue is digested with ether for purification. There is obtained 3-methylsulfamoylthiophene-2-carboxylic acid methyl ester of melting point 115°-122° C.

reactant | 3-chlorosulfonylthiophene-2-carboxylic acid methyl ester | 0.18 mol | COC(=O)C=1SC=CC1S(=O)(=O)Cl | C6H5ClO4S2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methylamine | CN | CH5N
solvent | water | O | H2O
product | 3-methylsulfamoylthiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC=CC1S(NC)(=O)=O | C7H9NO4S2
